US07592456B2
Butyllithium (1.6M in hexanes, 26.7 mL, 42.7 mmol) was added over 15 minutes to a solution of diisopropylamine (6.0 mL, 42.8 mmol) in tetrahydrofuran (45 mL) at 0 to 5° C. under nitrogen, then stirred for 30 minutes. This solution was cooled to −78° C. and 2-bromopyridine (3.45 mL, 35.8 mmol) was added. The reaction was stirred at −78° C. for 1 hour. Acetaldehyde (2 mL, 35.6 mmol) was added and the reaction stirred at −78° C. for 1 hour then quenched with saturated ammonium chloride solution and allowed to warm to room temperature. The reaction mixture was diluted with water and extracted with ethyl acetate (x3). The combined organic layers were washed with water and brine, dried over MgSO4 and evaporated in vacuo. The residue was purified by flash column chromatography on silica, eluting with 0-10% diethyl ether/dichloromethane, to give 1-(2-bromopyridin-3-yl)ethanol (2.65 g, 37%). 1H NMR (400 MHz, CDCl3) δ8.27 (1H, dd, J=2.0, 4.7 Hz), 7.92 (1H, dd, J=2.0, 7.4 Hz), 7.31 (1H, dd, J=4.7, 7.8 Hz), 5.19 (1H, q, J=6.3 Hz), 2.18 (1H, s), 1.51 (3H, d, J=6.4 Hz).

reactant | Butyllithium | 42.7 mmol, 1.6M, 26.7 mL | C(CCC)[Li]
reactant | diisopropylamine | 42.8 mmol, 6.0 mL | C(C)(C)NC(C)C | C6H15N
reactant | 2-bromopyridine | 35.8 mmol, 3.45 mL | BrC1=NC=CC=C1 | C5H4BrN
reactant | Acetaldehyde | 35.6 mmol, 2 mL | C(C)=O | C2H4O
solvent | tetrahydrofuran | 45 mL | O1CCCC1 | C4H8O
product | 1-(2-bromopyridin-3-yl)ethanol | 2.65 g, 37% | BrC1=NC=CC=C1C(C)O | C7H8BrNO
